US06573263B2
Analogously to Example 10A, 1.67 g (8.00 mmol) of 2-(1-naphthyl)ethanamidine hydrochloride are reacted with 401 mg (8.00 mmol) of hydrazine hydrate and 2.70 g (14.4 mmol) of ethyl 3-(acetylamino)-2-oxobutanoate to give N-{1-[3-(1-naphthylmethyl)-5-oxo-4,5-dihydro-1,2,4-triazin-6-yl]ethyl}acetamide.

reactant | 2-(1-naphthyl)ethanamidine hydrochloride | 8.00 mmol, 1.67 g | Cl.C1(=CC=CC2=CC=CC=C12)CC(=N)N
reactant | hydrazine hydrate | 8.00 mmol, 401 mg | O.NN
reactant | ethyl 3-(acetylamino)-2-oxobutanoate | 14.4 mmol, 2.70 g | C(C)(=O)NC(C(C(=O)OCC)=O)C | C8H13NO4
product | N-{1-[3-(1-naphthylmethyl)-5-oxo-4,5-dihydro-1,2,4-triazin-6-yl]ethyl}acetamide | C1(=CC=CC2=CC=CC=C12)CC1=NN=C(C(N1)=O)C(C)NC(C)=O | C18H18N4O2
